US07557122B2
3-Amino-6-chloro-2-iodopyridine
23.2 g (180.5 mM) of 5-amino-2-chloropyridine are mixed in 70 ml of dichloro-methane (DCM) and 180 ml of methanol, and 21.6 g (216 mM) of calcium carbonate and 75.3 g (226 mM) of benzyltrimethylammonium dichloroiodate are added. The reaction mixture is stirred at room temperature for 16 hours, and then filtered to remove the mineral salts. The filtrate is diluted with water and extracted with DCM. The organic phase obtained is washed with sodium chloride solution, and then with saturated sodium thiosulfate solution, dried over magnesium sulfate and concentrated under reduced pressure. An oil is obtained, which is purified by chromatography on silica gel, eluting with a cyclohexane/ethyl acetate mixture (80/20 and then 70/30; v/v). 13.9 g of the expected product are thus obtained in the form of an orange-colored solid (yield=30%).

reactant | 5-amino-2-chloropyridine | 180.5 mM, 23.2 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | calcium carbonate | 216 mM, 21.6 g | C([O-])([O-])=O.[Ca+2]
reactant | benzyltrimethylammonium dichloroiodate | 226 mM, 75.3 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloro-methane | 70 ml | ClCCl | CH2Cl2
solvent | methanol | 180 ml | CO | CH4O
product | 3-Amino-6-chloro-2-iodopyridine | 13.9 g | NC=1C(=NC(=CC1)Cl)I | C5H4ClIN2
